US05506228
The reaction of 951 mg (4.85 mmol) of 1-chloro-1-[(phenyl) hydrazono]-2-propanone with 864 mg of 4-chlorothiophenol and 840 ul of triethylamine in 15 ml of ethanol as Example 11 yielded 347 mg of 1-[(4-chlorophenyl)thio]-1-[(phenyl)hydrazono]-2-propanone, mp 111°-113° C.

reactant | 1-chloro-1-[(phenyl) hydrazono]-2-propanone | 4.85 mmol, 951 mg | ClC(C(C)=O)=NNC1=CC=CC=C1 | C9H9ClN2O
reactant | 4-chlorothiophenol | 864 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | triethylamine | 840 ul | C(C)N(CC)CC | C6H15N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-[(4-chlorophenyl)thio]-1-[(phenyl)hydrazono]-2-propanone | 347 mg | ClC1=CC=C(C=C1)SC(C(C)=O)=NNC1=CC=CC=C1 | C15H13ClN2OS
